US04442286
To the imine from pyridine-4-carboxaldehyde and benzylamine (20 g; 0.1 mole) was added phosphorous acid (8.4 g; 0.1 mole) and the mixture heated at 110°-130° for 11/2 hours. After cooling to 90° water (150 ml) was added. The aqueous solution was basified with NaOH and extracted with benzene (3×100 ml). Evaporation of the solvent gave the N-benzyl(4-pyridyl) methylamine 14.9 g (74%). Nmr measurements, 1H and 13C, confirmed the structural assignment.

reactant | pyridine-4-carboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | benzylamine | 0.1 mole, 20 g | C(C1=CC=CC=C1)N | C7H9N
reactant | phosphorous acid | 0.1 mole, 8.4 g | P(O)(O)O | H3O3P
reactant | NaOH | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | N-benzyl(4-pyridyl) methylamine | 14.9 g, 74% | C(C1=CC=CC=C1)NCC1=CC=NC=C1 | C13H14N2
